US04602092
[Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid
To a solution of 4-phenylbutyl phosphonous acid (0.5 g, 0.002525 mole) in chloroform (10 ml) was added triethylamine (1.16 ml, 0.00833 mole) and the solution was cooled in an ice bath to 0° C. Trimethyl silyl chloride (1.06 ml, 0.00833 mole) was added to the above solution dropwise, followed by bromoacetic acid (0.36 g, 0.00277 mole). The ice bath was removed and the mixture stirred at room temperature for 3 hours and poured into 10% aqueous HCl (30 ml) and crushed ice (20 g). After shaking the mixture in a separatory funnel, the chloroform layer was separated and the aqueous layer extracted with dichloromethane (2×50 ml). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and the solvents removed on a rotavap. The resulting crude thick oil (0.6 g) was dissolved in 30 ml ether; hexane was added dropwise to get a turbid solution and left at room temperature overnight to complete the crystallization. The resulting product was cooled in the freezer for 12 hours, filtered and the solid was washed very thoroughly with hexane (50 ml), ether (50 ml) and again very thoroughly with hexane (50 ml), ether (50 ml) in that order. The solid was vacuum dried to get 0.5 g (83%) of title compound.

reactant | 4-phenylbutyl phosphonous acid | 0.002525 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(O)O | C10H15O2P
reactant | triethylamine | 0.00833 mole, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethyl silyl chloride | 0.00833 mole, 1.06 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | bromoacetic acid | 0.00277 mole, 0.36 g | BrCC(=O)O | C2H3BrO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | [Hydroxy-(4-phenylbutyl)phosphinyl]acetic acid | 0.5 g, 83% | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)O | C12H17O4P
